US07425551B2
2-Methoxy-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
Using (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid, the title compound was prepared in the same manner as example 1c (84%). White solid. MS: m/e=530(M+H+).

reactant | (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2 | C17H18N2O2
reactant | 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | COC(C(=O)O)C(=O)NCC(C(F)(F)F)(F)F | C7H8F5NO4
product | 2-Methoxy-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | COC(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)C(=O)NCC(C(F)(F)F)(F)F | C24H24F5N3O5
